US04655819
A solution of potassium persulphate (70 g, 0.26 mole) in water (1.5 l) was added slowly, with stirring, to a solution of 3-fluorophenol (29 g, 0.26 mole) and sodium hydroxide (52 g, 1.3 mole) in water (520 ml) so that the temperature of the mixture remained below 20° C. The dark solution was stirred overnight at room temperature and then acidified to Congo red with hydrochloric acid. The solution was then extracted with diethyl ether (3×200 ml) to remove unreacted phenol. The aqueous layer was made neutral and evaporated to dryness and the residue was extracted into 90% ethanol (700 ml) to give a solution of 2-fluoro-4-hydroxyphenyl potassium sulphate. The solution was concentrated to 250 ml, sodium hydroxide (12 g, 0.3 mole) in water (50 ml) was added and then the solution was boiled and stirred while benzyl chloride (35 g, 0.28 mole) was added dropwise. Heating was continued for a further 2 hours and then concentrated hydrochloric acid was added to Congo red and the mixture boiled for 2 hours. The mixture was concentrated under reduced pressure then diluted with water and extracted with ether. The ether extracts were dried (MgSO4) and evaporated to give the crude product. The product was purified by chromatography on silica gel with methylene chloride elution to give 2-fluoro-4-benzyloxyphenol (12.5 g, 25%), m.p. 67° C.

reactant | potassium persulphate | 0.26 mole, 70 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | 3-fluorophenol | 0.26 mole, 29 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | sodium hydroxide | 1.3 mole, 52 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1.5 l | O | H2O
solvent | water | 520 ml | O | H2O
product | 2-fluoro-4-hydroxyphenyl potassium sulphate | S(=O)(=O)(O)O.FC1=C(C=CC(=C1)O)[K] | InChI=1S/C6H4FO.K.H2O4S/c7-5-2-1-3-6(8)4-5;;1-5(2,3)4/h1,3-4,8H;;(H2,1,2,3,4)
